US04584295
5 g (0.0315 mol) of 4-chloromethyl-6-hydroxy-2-methyl-pyrimidine are introduced portionwise under nitrogen into a suspension of 0.80 g (0.0331 mol) of sodium hydride (freed from a 50% dispersion in oil by two-fold extraction with n-pentane) in 50 ml of absolute tetrahydrofuran. After completion of the hydrogen evolution 2.9 ml (0.0315 mol) of dimethylcarbamoyl chloride are added dropwise and the mixture is heated at reflux for 16 hours. The cooled mixture is subsequently diluted with 150 ml of toluene, washed in succession with in each case 50 ml of 5% sodium bicarbonate solution, 0.1N hydrochloric acid and saturated sodium chloride solution, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residual oil is filtered briefly on silica gel with 90% diethyl ether in n-hexane. There is obtained 4-chloromethyl-2-methyl-6-pyrimidinyl N,N-dimethylcarbamate as a colourless oil, nD22 1.5265.

reactant | 4-chloromethyl-6-hydroxy-2-methyl-pyrimidine | 0.0315 mol, 5 g | ClCC1=NC(=NC(=C1)O)C | C6H7ClN2O
reactant | sodium hydride | 0.0331 mol, 0.80 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | dimethylcarbamoyl chloride | 0.0315 mol, 2.9 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-2-methyl-6-pyrimidinyl N,N-dimethylcarbamate | CN(C(OC1=CC(=NC(=N1)C)CCl)=O)C | C9H12ClN3O2
